US04975439
A mixture of 16 parts of 1-(4-chloro-2-methyl-1-oxobutyl)-2-methyl-4-(phenylmethyl)piperazine monohydrochloride, 200 parts of methanol and 7 parts of a formaldehyde solution 40% was hydrogenated at normal pressure and at 60° C. with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane, yielding 9 parts (72.6%) of 1(-4-chloro-2-methyl-1-oxobutyl)-2,4-dimethylpiperazine monohydrochloride (int. 26).

reactant | 1-(4-chloro-2-methyl-1-oxobutyl)-2-methyl-4-(phenylmethyl)piperazine monohydrochloride | Cl.ClCCC(C(=O)N1C(CN(CC1)CC1=CC=CC=C1)C)C
reactant | formaldehyde | C=O | CH2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1(-4-chloro-2-methyl-1-oxobutyl)-2,4-dimethylpiperazine monohydrochloride | 72.6% | Cl.ClCCC(C(=O)N1C(CN(CC1)C)C)C | InChI=1S/C11H21ClN2O.ClH/c1-9(4-5-12)11(15)14-7-6-13(3)8-10(14)2;/h9-10H,4-8H2,1-3H3;1H
